US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.107 g, 0.3 mmol), 4-ethyl-benzylamine (0.072 mL, 0.5 mmol), and K2CO3 (0.138 g, 1.0 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one (0.032 g, 28%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.24 (t, 3H), 2.51 (q, 2H), 4.14 (s, 2H), 4.76 (s, 2H), 7.14-7.38 (m, 6H), 7.86 (d, 1H). GC-MS: m/z 377 (M)+, 348 (M−29)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.3 mmol, 0.107 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 4-ethyl-benzylamine | 0.5 mmol, 0.072 mL | C(C)C1=CC=C(CN)C=C1 | C9H13N
reactant | K2CO3 | 1.0 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.032 g, 28% | IC=1C=CC=C2CN(C(C12)=O)CC1=CC=C(C=C1)CC | C17H16INO
